US07560558B2
4-Chloro-6,7-dimethoxyquinoline (111 mg), 5-tert-butyl-2-hydroxybenzaldehyde (356 mg), and 4-dimethylaminopyridine (244 mg) were suspended in monochlorobenzene (2 ml), and the suspension was stirred at 130° C. overnight. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by chromatography on silica gel using ethyl acetate-hexane for development to give 5-(tert-butyl)-2-[(6,7-dimethoxy-4-quinolyl)oxy]benzaldehyde.

reactant | 4-Chloro-6,7-dimethoxyquinoline | 111 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 5-tert-butyl-2-hydroxybenzaldehyde | 356 mg | C(C)(C)(C)C=1C=CC(=C(C=O)C1)O | C11H14O2
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 244 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | monochlorobenzene | 2 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 5-(tert-butyl)-2-[(6,7-dimethoxy-4-quinolyl)oxy]benzaldehyde | C(C)(C)(C)C=1C=CC(=C(C=O)C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C22H23NO4
